US07605171B2
Step A: (R/S) 5-Cyano-4-methylindane-2-carboxylic acid
To a solution of methyl 5-cyano-4-methylindane-2-carboxylate (121 mg, 0.562 mmol) in methanol (2 mL), 1.0 N NaOH (1.69 mL, 1.69 mmol) was added and the reaction mixture was stirred overnight. The reaction mixture was acidified, extracted with EtOAc and the organic layer was washed with H2O, brine, dried (MgSO4), filtered and concentrated in vacuo to afford 98 mg of the title compound: 1H NMR (CDCl3) δ 2.48 (s, 3H), 3.26-3.48 (m, 5H), 7.16 (d, 1H, J=7.7 Hz), 7.47 (d, 1H, J=7.8 Hz).

reactant | methyl 5-cyano-4-methylindane-2-carboxylate | 0.562 mmol, 121 mg | C(#N)C=1C(=C2CC(CC2=CC1)C(=O)OC)C | C13H13NO2
reactant | NaOH | 1.69 mmol, 1.0 N, 1.69 mL | [OH-].[Na+]
solvent | methanol | 2 mL | CO | CH4O
product | (R/S) 5-Cyano-4-methylindane-2-carboxylic acid | 98 mg | C(#N)C=1C(=C2CC(CC2=CC1)C(=O)O)C | C12H11NO2
